US07902356B2
2-(4-Chloro-phenyl)-5-[3-methoxy-4-(3-pyrrolidin-1-yl-propyl)-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 3-{4-[2-(4-chloro-phenyl)-4-oxo-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenyl}-propionaldehyde (94 mg, 0.22 mmol) in 1,2-dichloroethane (2.2 mL) and add pyrrolidine (20 μL, 0.24 mmol), AcOH (19 μL, 0.33 mmol), and NaHB(OAc)3 (70 mg, 0.33 mmol). Stir the yellow solution at room temperature for 1 h, then add 1N NaOH (5 mL), and extract the mixture with CH2Cl2 (2×10 mL). Combine the organic portions, then dry, filter, and concentrate. Purify the crude material by flash chromatography, using 8% 2N NH3 in MeOH/CHCl3 as eluent, to give the title compound (75 mg, 71%). MS (ES+) 480.1 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 8.03 (d, 2H, J=8.3 Hz), 7.48 (d, 2H, J=8.8 Hz), 7.43 (d, 1H, J=7.5 Hz), 7.25 (t, 1H, J=3.7 Hz), 6.97 (d, 1H, J=7.5 Hz), 6.93-6.88 (m, 2H), 3.83 (s, 3H), 2.70 (t, 2H, J=7.7 Hz), 2.60 (br s, 6H), 1.96-1.79 (m, 6H).

reactant | 3-{4-[2-(4-chloro-phenyl)-4-oxo-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenyl}-propionaldehyde | 0.22 mmol, 94 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)CCC=O)OC)=O | C22H17ClN2O3S
reactant | pyrrolidine | 0.24 mmol, 20 μL | N1CCCC1 | C4H9N
reactant | AcOH | 0.33 mmol, 19 μL | CC(=O)O | C2H4O2
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 2.2 mL | ClCCCl | C2H4Cl2
product | 2-(4-Chloro-phenyl)-5-[3-methoxy-4-(3-pyrrolidin-1-yl-propyl)-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one | 75 mg, 71% | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)CCCN1CCCC1)OC)=O | C26H26ClN3O2S
